### PR TITLE
feat: add Scan iterator combinator

### PR DESCRIPTION
**Pull request by cmlsharp**
This PR adds `IterM.scanWithPostcondition` `IterM.scanM`, `IterM.scan` `Iter.scanWithPostcondition`, `IterM.scanM`, `Iter.scan` as well as corresponding theorems that prove their equivalence to their List counterparts. It additionally upstreams `Bool.lt_wf` and `Bool.gt_wf` from `Batteries.Data.Bool`.

This PR is based on leanprover-community/batteries#1590. However after private correspondence with @datokrat and @fgdorais, I was asked to create an PR adding it into the stdlib.

The `Bool.lt_wf` and `Bool.gt_wf` additions can be extracted out into a separate PR if that is desirable. Or if there is some reason not to upstream them at all, it would not be too difficult to rewrite the proof not to require it.

Closes: #12741

### CODE REVIEW

File: src/Init/Data/Iterators/Combinators/Monadic/Scan.lean [hunk 1]
```diff
@@ -0,0 +1,290 @@
...
+
+/--
+`it.IsPlausibleStep` is the proposition that `step` is a possible next step from the `scanM`
+iterator `it`. This is mostly an internal implementation detail used to prove termination.
+-/
+inductive IsPlausibleStep (it : IterM (α := ScanM α m f) n γ) :
+    IterStep (IterM (α := ScanM α m f) n γ) γ → Prop where
+  /-- When `yieldAcc` is true, the step yields the current accumulator and
+      the successor iterator is identical except with `yieldAcc` set to false.
+  -/
```
Comment (datokrat) [inline src/Init/Data/Iterators/Combinators/Monadic/Scan.lean]: According to the [style guide](https://github.com/leanprover/lean4/blob/master/doc/std/style.md), the docstrings should be formatted differently: no indentation, `/--` on its own line.

File: src/Init/Data/Iterators/Combinators/Monadic/Scan.lean [hunk 2]
```diff
@@ -0,0 +1,290 @@
...
+`MonadLiftT m n` instance is available.
+
+If `f` is pure, then the simpler variant `it.scan` can be used instead.
+
+**Marble diagram (without monadic effects):**
+
+```text
+it           ---a ---b ---c ---⊥
+it.scanM     -i -a'-ab'-abc'---⊥
+```
```
Comment (datokrat) [inline src/Init/Data/Iterators/Combinators/Monadic/Scan.lean:241]:
````suggestion
```text
it           ---a ---b  -c   ---⊥
it.scanM     -i-a'---ab'-abc'---⊥
```
````

In my understanding, `a'` is being returned in the same iteration as `a`. Also note that `-` means "skip", so I added some whitespace where long identifiers are. Perhaps it would be even more readable if instead of `a'/ab'/abc'` we used `a'/b'/c'` because these are shorter.

File: src/Init/Data/Iterators/Lemmas/Combinators/Monadic/Scan.lean [hunk 3]
```diff
@@ -0,0 +1,120 @@
...
+namespace Std
+open Std.Internal Std.Iterators Std.Iterators.Types
+
+theorem IterM.InternalCombinators.step_scanM
+    {f : γ → β → PostconditionT n γ} [Iterator α m β] [MonadLiftT m n] [Monad n]
+    {it : IterM (α := α) m β} {acc : γ} {yieldAcc : Bool} :
+    (IterM.InternalCombinators.scanM f acc yieldAcc it).step = (do
+        if h : yieldAcc = true then
+          return .deflate <| .yield
+            (IterM.InternalCombinators.scanM f acc false it)
```
Comment (datokrat) [inline src/Init/Data/Iterators/Lemmas/Combinators/Monadic/Scan.lean]: Given that `IterM.InternalCombinators.scanM` is appearing in a theorem of the public API, it might be a good idea to rename it to `IterM.Intermediate.scanM` (like `Intermediate.zip`) and consider it public API, too.

File: src/Init/Data/Iterators/Lemmas/Combinators/Scan.lean [hunk 4]
```diff
@@ -0,0 +1,41 @@
...
+import Init.Data.Iterators.Lemmas.Combinators.Monadic.Scan
+
+public section
+
+namespace Std
+open Std.Iterators
+
+variable {α β γ : Type w} [Iterator α Id β] {it : Iter (α := α) β}
+    {m : Type w → Type w'}
+
```
Comment (datokrat) [inline src/Init/Data/Iterators/Lemmas/Combinators/Scan.lean:50]: Could you also add a `step_...` lemma for the pure iterator, please?

File: src/Init/Data/List/Scan/Lemmas.lean [hunk 5]
```diff
@@ -51,6 +51,11 @@ theorem scanlM_cons [Monad m] [LawfulMonad m] {f : α → β → m α} :
     scanlM f init (x :: xs) = return init :: (← scanlM f (← f init x) xs) := by
   simp [scanlM, scanAuxM_cons]
 
+theorem scanlM_cons_head_tail [Monad m] [LawfulMonad m]
+    {f : γ → β → m γ} {init : γ} {as : List β} :
+    (return (init :: (← as.scanlM f init).tail)) = as.scanlM f init := by
+  induction as generalizing init with simp_all
```
Comment (datokrat) [inline src/Init/Data/List/Scan/Lemmas.lean]: According to the [naming convention](https://github.com/leanprover/lean4/blob/master/doc/std/naming.md`), this should probably be called something like `cons_tail_scanlM`.

**Comment by datokrat** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/ad46cdc29a2a6d3d3aaa6aa582b9ed7951cde887?reference=a36459511109c7867ddf80d3170c2f005773d02f) for ad46cdc29a2a6d3d3aaa6aa582b9ed7951cde887 against a36459511109c7867ddf80d3170c2f005773d02f are in! @datokrat

- 🟥 `build//instructions`: **+9.7G** (**+0.08%**)

**Medium changes (1🟥)**

- 🟥 `size/Init/.olean//bytes`: **+476kiB** (**+0.53%**)

**Small changes (4🟥)**

- 🟥 `build/module/Init.Data.Bool//instructions`: **+103.6M** (**+2.22%**) (reduced significance based on *//lines)
- 🟥 `build/module/Init.Data.List.Scan.Lemmas//instructions`: **+147.1M** (**+3.75%**) (reduced significance based on *//lines)
- 🟥 `size/Init/.olean.private//bytes`: **+795kiB** (**+0.34%**)
- 🟥 `size/Init/.olean.server//bytes`: **+21kiB** (**+0.20%**)

File: src/Init/Data/Iterators/Lemmas/Combinators/Scan.lean [hunk 6]
```diff
@@ -0,0 +1,70 @@
...
+              (IterM.Intermediate.scanM f acc false it'.toIterM)
+              (.skip (by simp [IterM.Intermediate.scanM, h]) hp)
+          | .done hp =>
+            return .deflate <|
+              .done (.done (by simp [IterM.Intermediate.scanM, h]) hp)) := by
+  simp only [IterM.Intermediate.step_scanM]
+  cases h : yieldAcc
+  case true => rfl
+  case false =>
+    simp only [monadLift, liftM, pure_bind, Iter.step]
```
Comment (cmlsharp) [inline src/Init/Data/Iterators/Lemmas/Combinators/Scan.lean:48]: Is there a more robust way to do this besides unfolding Iter.step?

Comment (datokrat) [reply src/Init/Data/Iterators/Lemmas/Combinators/Scan.lean:48]: I don't think so. I'm stil thinking about how to reduce the necessary unfolding. Having an explicit lemma `Iter.step_toIterM` would probably be good decorum.

File: src/Init/Data/Iterators/Combinators/Monadic/Scan.lean (hunk 2 above)
Comment (datokrat) [reply src/Init/Data/Iterators/Combinators/Monadic/Scan.lean:241]: Looks almost good, but there is a minor detail: Above the `'`, there needs to be a whitespace. Otherwise, the diagram says that `it` has a skip more than `it.scanM`.

File: src/Init/Data/Iterators/Combinators/Monadic/Scan.lean [hunk 7]
```diff
@@ -0,0 +1,293 @@
...
+-/
+
+public section
+namespace Std
+namespace Iterators.Types
+
+/--
+  Internal state for the ScanM combinator
+-/
+structure ScanM  {β γ : Type w} {n : Type w → Type w''}
```
Comment (datokrat) [inline src/Init/Data/Iterators/Combinators/Monadic/Scan.lean]:
```suggestion
structure ScanM {β γ : Type w} {n : Type w → Type w''}
```

(very minor!)

File: src/Init/Data/Iterators/Combinators/Monadic/Scan.lean [hunk 8]
```diff
@@ -0,0 +1,293 @@
...
+    refine ⟨fun _ => Prod.lexAccessible ?_ ?_ _⟩ <;> apply WellFounded.apply
+    · exact Bool.lt_wfRel.wf
+    · exact Finite.wf
+  subrelation h := by
+    obtain ⟨step, hstep, hplaus⟩ := h
+    cases hplaus <;> cases hstep
+    case yieldAcc hya => simp [FinRel.of_yieldAcc, IterM.Intermediate.scanM, hya]
+    all_goals apply FinRel.of_inner <;> simp only [IterM.Intermediate.scanM, *]
+    . exact IterM.isPlausibleSuccessorOf_of_yield ‹_›
+    . exact IterM.isPlausibleSuccessorOf_of_skip ‹_›
```
Comment (datokrat) [inline src/Init/Data/Iterators/Combinators/Monadic/Scan.lean]:
```suggestion
    · exact IterM.isPlausibleSuccessorOf_of_yield ‹_›
    · exact IterM.isPlausibleSuccessorOf_of_skip ‹_›
```

(How fun it is to have a unicode-based language!)

File: src/Init/Data/Iterators/Combinators/Monadic/Scan.lean [hunk 9]
```diff
@@ -0,0 +1,293 @@
...
+of `f`.
+
+**Marble diagram (without monadic effects):**
+
+```text
+it                          ---a---b---c ---⊥
+it.scanWithPostcondition    -i-a'--b'--c'---⊥
+```
+
+(given that `a' ← f i a'`, `b' ← f a' b`, `c' ← f ab' c'`)
```
Comment (datokrat) [inline src/Init/Data/Iterators/Combinators/Monadic/Scan.lean]:
```suggestion
(given that `a' ← f i a`, `b' ← f a' b`, `c' ← f b' c`)
```

File: src/Init/Data/Iterators/Lemmas/Combinators/Monadic/Scan.lean [hunk 10]
```diff
@@ -0,0 +1,120 @@
...
+              .done (.done (by simp [IterM.Intermediate.scanM, h]) hp)) := by
+  simp only [IterM.Intermediate.scanM, IterM.step_eq]
+  cases h : yieldAcc
+  case true => rfl
+  case false =>
+    apply bind_congr
+    intro step
+    cases step.inflate using PlausibleIterStep.casesOn <;> simp
+
+private theorem IterM.toList_scanWithPostCondition_afterInit
```
Comment (datokrat) [inline src/Init/Data/Iterators/Lemmas/Combinators/Monadic/Scan.lean]:
```suggestion
private theorem IterM.toList_scanWithPostcondition_afterInit
```

File: src/Init/Data/Iterators/Lemmas/Combinators/Monadic/Scan.lean [hunk 11]
```diff
@@ -0,0 +1,120 @@
...
+  | ⟨.yield inner' out, hp⟩ =>
+    simp only [PostconditionT.operation_pure, bind_pure_comp, map_pure,
+      pure_bind, Shrink.inflate_deflate, ihy hp, Functor.map_map, List.scanl_cons, List.tail_cons]
+    simp +singlePass only [← List.cons_tail_scanl]
+    simp
+  | ⟨.skip inner, hp⟩ => simp_all
+  | ⟨.done, x⟩ => simp_all
+
+@[simp]
+theorem IterM.toList_scanWithPostCondition [Monad m] [LawfulMonad m] [Iterator α Id β] [Finite α Id]
```
Comment (datokrat) [inline src/Init/Data/Iterators/Lemmas/Combinators/Monadic/Scan.lean]:
```suggestion
theorem IterM.toList_scanWithPostcondition [Monad m] [LawfulMonad m] [Iterator α Id β] [Finite α Id]
```

File: src/Init/Data/Iterators/Combinators/Scan.lean [hunk 12]
```diff
@@ -0,0 +1,117 @@
+/-
+Copyright (c) 2025 Chad Sharp. All rights reserved.
```
Comment (datokrat) [inline src/Init/Data/Iterators/Combinators/Scan.lean]:
```suggestion
Copyright (c) 2026 Chad Sharp. All rights reserved.
```

File: src/Init/Data/Iterators/Combinators/Monadic/Scan.lean (hunk 8 above)
Comment (cmlsharp) [reply src/Init/Data/Iterators/Combinators/Monadic/Scan.lean]: I literally had no idea until right now those were conventionally \cdot. I have always read them as periods haha

File: src/Init/Data/Iterators/Combinators/Monadic/Scan.lean [hunk 13]
```diff
@@ -0,0 +1,293 @@
...
+instance. The `PostconditionT` transformer allows the caller to intrinsically prove properties about
+`f`'s return value in the monad `n`, enabling termination proofs depending on the specific behavior
+of `f`.
+
+**Marble diagram (without monadic effects):**
+
+```text
+it                          ---a---b---c ---⊥
+it.scanWithPostcondition    -i-a'--b'--c'---⊥
+```
```
Comment (datokrat) [inline src/Init/Data/Iterators/Combinators/Monadic/Scan.lean:200]:
````suggestion
```text
it                          ---a --b --c ---⊥
it.scanWithPostcondition    -i-a'--b'--c'---⊥
```
````

(also for the other variants)

File: src/Init/Data/Iterators/Combinators/Monadic/Scan.lean [hunk 14]
```diff
@@ -0,0 +1,293 @@
+/-
+Copyright (c) 2025 Chad Sharp. All rights reserved.
```
Comment (datokrat) [inline src/Init/Data/Iterators/Combinators/Monadic/Scan.lean:2]:
```suggestion
Copyright (c) 2026 Chad Sharp. All rights reserved.
```

File: src/Init/Data/Iterators/Combinators/Monadic/Scan.lean [hunk 15]
```diff
@@ -0,0 +1,293 @@
...
+If `f` is pure, then the simpler variant `it.scan` can be used instead.
+
+**Marble diagram (without monadic effects):**
+
+```text
+it          ---a---b---c ---⊥
+it.scanM    -i-a'--b'--c'---⊥
+```
+
+(given that `a' ← f i a'`, `b' ← f a' b`, `c' ← f ab' c'`)
```
Comment (datokrat) [inline src/Init/Data/Iterators/Combinators/Monadic/Scan.lean:243]: This one needs updating, too, and some others too.
